US04420428
(E) 9-Fluoro-11β-hydroxy-17,17-bis(methylthio)androsta-1,4-diene-3,16-dione
To a stirred solution of 1.7 g (3.76 mmole) of 11β-(acetyloxy)-9-fluoro-17,17-bis(methylthio)androsta-1,4-diene-3,16-dione in a mixture of methanol (70 ml), tetrahydrofuran (50 ml) and water (5 ml) was added 10% potassium carbonate solution dropwise until the pH of solution was about 10. The solution was allowed to stir at room temperature under nitrogen for 2 hours and quenched with a slight excess of concentrated acetic acid. The solvent was evaporated in vacuo to give a slurry. This was diluted with water and extracted with dichloromethane. The dichloromethane solution was dried over anhydrous Na2SO4 and evaporated in vacuo to give 1.35 g of the title compound. Recrystallization of this from acetone-hexane gave 720 mg of an analytical specimen, melting point 293°-294° C., dec.

reactant | 11β-(acetyloxy)-9-fluoro-17,17-bis(methylthio)androsta-1,4-diene-3,16-dione | 3.76 mmole, 1.7 g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC(C([C@@]2(C)C1)(SC)SC)=O)=O)C)F | C23H29FO4S2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 70 ml | CO | CH4O
solvent | water | O | H2O
solvent | water | 5 ml | O | H2O
product | 9-Fluoro-11β-hydroxy-17,17-bis(methylthio)androsta-1,4-diene-3,16-dione | 1.35 g | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC(C([C@@]1(C)C[C@@H]2O)(SC)SC)=O)=O)C | C21H27FO3S2
